US09328067B2
2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)-N,N-dimethylbenzamide
A mixture of 2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid (304 mg, 0.57 mmol), DMAP (138 mg, 1.13 mmol), EDC (217 mg, 1.13 mmol), and dimethylamine hydrochloride (93 mg, 1.13 mmol) in CH2Cl2 (3 ml) was stirred at room temperature overnight. The mixture was diluted with water, extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (0˜30% EtOAc in hexane) to yield the title compound (122 mg, 38%).

reactant | 2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid | 0.57 mmol, 304 mg | ClC1=CC(=C(C=C1)SCC1=C(C(=O)O)C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C21H14Cl2F3NO4S2
reactant | EDC | 1.13 mmol, 217 mg
reactant | dimethylamine hydrochloride | 1.13 mmol, 93 mg | Cl.CNC
catalyst | DMAP | 1.13 mmol, 138 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)-N,N-dimethylbenzamide | 122 mg, 38% | ClC1=CC(=C(C=C1)SCC1=C(C(=O)N(C)C)C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C23H19Cl2F3N2O3S2
